US06713471B1
To a suspension of 1-(2-amino-4-fluorophenyl)-4-chloro-1-butanone (500 mg, 2.3 mmol) in conc. HCl (3.2 mL) was added a solution of NaNO2 in H2O (0.7 mL) and stirred for 1 h at −6-0° C. A solution of SnCl2.2H2O (1.25 g, 5.51 mmol) in conc. HCl (1.7 mL) was added the reaction mixture and stirred for additional 1 h at 0° C. The reaction was quenched by addition of ice water and extracted with Et2O. The combined organic layer was washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo to give a white solid. It was recrystalized to give pure 3-(3-chloropropyl)-6-fluoroindazole (420 mg, 86%).

reactant | 1-(2-amino-4-fluorophenyl)-4-chloro-1-butanone | 2.3 mmol, 500 mg | NC1=C(C=CC(=C1)F)C(CCCCl)=O | C10H11ClFNO
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 5.51 mmol, 1.25 g | O.O.Cl[Sn]Cl
solvent | HCl | 3.2 mL | Cl | ClH
solvent | H2O | 0.7 mL | O | H2O
solvent | HCl | 1.7 mL | Cl | ClH
product | 3-(3-chloropropyl)-6-fluoroindazole | 420 mg, 86% | ClCCCC1=NNC2=CC(=CC=C12)F | C10H10ClFN2
